US07049438B2
4-(2-chloro-5-methoxyanilino)-5-(N-methylpiperidin-4-ylmethoxy)quinazoline
A mixture of 5-[N-(tert-butoxycarbonyl)piperidin-4-ylmethoxy]-4-(2-chloro-5-methoxyanilino)quinazoline (0.2 g), a concentrated aqueous formaldehyde solution (37%, 0.4 ml) and formic acid (4 ml) was stirred and heated to 100° C. for 2.5 hours. The mixture was cooled to ambient temperature and evaporated. The residue was triturated under diethyl ether and the resultant solid was isolated and dried under vacuum. There was thus obtained 4-(2-chloro-5-methoxyinilino)-5-(N-methylpiperidin-4-ylmethoxy)quinazoline, as a formic acid salt (0.09 g); NMR Spectrum: (CDCl3) 1.8–2.0 (m, 2H), 2.05–2.15 (m, 2H), 2.35 (m, 1H), 2.6 (t, 2H), 3.55 (d, 2H), 3.93 (s, 3H), 4.21 (d, 2H), 6.68 (m, 1H), 6.95 (d, 1H), 7.31 (d, 1H), 7.54 (d, 1H), 7.7 (m, 1H), 8.35 (br s, 1H), 8.39 (d, 1H), 8.7 (s, 1H); Mass Spectrum: M+H+ 413.

reactant | 5-[N-(tert-butoxycarbonyl)piperidin-4-ylmethoxy]-4-(2-chloro-5-methoxyanilino)quinazoline | 0.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C2C(=NC=NC2=CC=C1)NC1=C(C=CC(=C1)OC)Cl | C26H31ClN4O4
reactant | formaldehyde | 0.4 ml | C=O | CH2O
solvent | formic acid | 4 ml | C(=O)O | CH2O2
product | 4-(2-chloro-5-methoxyanilino)-5-(N-methylpiperidin-4-ylmethoxy)quinazoline | ClC1=C(NC2=NC=NC3=CC=CC(=C23)OCC2CCN(CC2)C)C=C(C=C1)OC | C22H25ClN4O2
